* ============================================
* Test: and_multiply.spice
* Cell: 8T_03v3
* PDK: GF180mcuD
* Author: R. Gupta
* Date: 2026-06-19
* ============================================

* -- includes --
.include /workspace/analog/tests/8T_tb.spice
.include /workspace/analog/designs/pvt.spice

* -- stimulus --
VVDD vdd  0 {VDD_CORNER}   ; supply
VVSS vss  0 0     ; source
VWL  wl   0 0     ; reads: OFF
VBL  wbl  0 0     ; bitlines parked (or floating)
VBLB wblb 0 0     ; bitlines parked (or floating)
VQ   q    0 0     ; output node
VA   a    0 0     ; set Activation = HI
CRBL rbl  0 20f   ; capacitive load on bitline


* -- initial conditions --
  .ic v(rbl)=3.3               ; initial state: A=0

* -- sim --
.control
  save all

  * --- initial conditions (Q, A) == (0, 0) ---
  alter VA = 0
  alter VQ = 0

  * --- start transient analysis --- 
  tran 0.1n 50n uic

  * --- validate data ---
  echo
  meas tran q_init    FIND v(q)   AT=15n
  meas tran a_init    FIND v(a)   AT=15n
  meas tran mult_init FIND v(rbl) AT=15n
  echo
  meas tran q_final    FIND v(q)   AT=50n
  meas tran a_final    FIND v(a)   AT=50n
  meas tran mult_final FIND v(rbl) AT=50n
  echo

  * --- initial conditions (Q, A) == (1, 0) ---
  alter VA = 3.3
  alter VQ = 0
  
  * --- start transient analysis --- 
  tran 0.1n 50n uic

  * --- validate data ---
  echo
  meas tran q_init    FIND v(q)   AT=15n
  meas tran a_init    FIND v(a)   AT=15n
  meas tran mult_init FIND v(rbl) AT=15n
  echo
  meas tran q_final    FIND v(q)   AT=50n
  meas tran a_final    FIND v(a)   AT=50n
  meas tran mult_final FIND v(rbl) AT=50n
  echo

    * --- initial conditions (Q, A) == (0, 1) ---
  alter VA = 0
  alter VQ = 3.3
  
  * --- start transient analysis --- 
  tran 0.1n 50n uic

  * --- validate data ---
  echo
  meas tran q_init    FIND v(q)   AT=15n
  meas tran a_init    FIND v(a)   AT=15n
  meas tran mult_init FIND v(rbl) AT=15n
  echo
  meas tran q_final    FIND v(q)   AT=50n
  meas tran a_final    FIND v(a)   AT=50n
  meas tran mult_final FIND v(rbl) AT=50n
  echo

    * --- initial conditions (Q, A) == (1, 1) ---
  alter VA = 3.3
  alter VQ = 3.3
  
  * --- start transient analysis --- 
  tran 0.1n 50n uic

  * --- validate data ---
  echo
  meas tran q_init    FIND v(q)   AT=15n
  meas tran a_init    FIND v(a)   AT=15n
  meas tran mult_init FIND v(rbl) AT=15n
  echo
  meas tran q_final    FIND v(q)   AT=50n
  meas tran a_final    FIND v(a)   AT=50n
  meas tran mult_final FIND v(rbl) AT=50n
  echo
  * --- save .raw for python parsing ---
  write /workspace/analog/sim/8t/results/and_multiply.raw all

.endc

.end